US06800651B2
N-(4-(Benzyl)phenyl)-N-(2,2,2-trifluoroethanesulfonyl)pyrid-3-ylmethylamine
To a solution of N-(4-benzylphenyl)pyrid-3-ylmethylamine (0.517 g, 1.88 mmol) dissolved in 8 mL dichloroethane and 4 mL pyridine at 0° C. was added 2,2,2-trifluoroethylsulfonyl chloride (0.313 mL, 2.83 mmol). The reaction was stirred at ambient temperature overnight. The mixture was treated with 1.5 g anhydrous K2CO3 and stirred for 2 h. Then the mixture was filtered and concentrated. The residue was chromatographed on silica gel with 3:1 to 2:1 DCM/EtOAc to give an amorphous white solid. 1H NMR: 8.52 (br d,J=3.3 Hz, 1H), 8.32 (br s,1H), 7.71 (dt,J=6.8, 1.4 Hz, 1H), 7.33-7.20 (m,4H), 7.18-7.10 (m,6H), 4.88 (s,2H), 3.95 (s,2H), 3.79 (q,J=9.3 Hz, 2H).

reactant | N-(4-benzylphenyl)pyrid-3-ylmethylamine | 1.88 mmol, 0.517 g | C(C1=CC=CC=C1)C1=CC=C(C=C1)NCC=1C=NC=CC1 | C19H18N2
reactant | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trifluoroethylsulfonyl chloride | 2.83 mmol, 0.313 mL | FC(CS(=O)(=O)Cl)(F)F | C2H2ClF3O2S
reactant | K2CO3 | 1.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dichloroethane | 8 mL | ClC(C)Cl | C2H4Cl2
product | N-(4-(Benzyl)phenyl)-N-(2,2,2-trifluoroethanesulfonyl)pyrid-3-ylmethylamine | C(C1=CC=CC=C1)C1=CC=C(C=C1)N(S(=O)(=O)CC(F)(F)F)CC=1C=NC=CC1 | C21H19F3N2O2S
